US08865721B2
4-((alpha-R)-alpha-((2S,5R)-4-Allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N,N-diethylbenzamide hydrochloride (0.97 g, 2.0 mmol) was dissolved in methylene chloride (10 mL) under nitrogen and triethylamine (0.919 mL, 0.667 g, 6.6 mmol) was added followed by N-phenyl bis(trifluoromethanesulfonimide) (0.785 g, 2.2 mmol). The reaction mixture was stirred at room temperature overnight and evaporated to dryness. The residue was dissolved in ethyl acetate (20 mL) and extracted with 5% sodium carbonate solution (2×15 mL). The organic layer was separated, dried over anhydrous sodium sulfate and evaporated to yield a viscous amber oil. The residue was dissolved in methylene chloride (5 mL), applied to a column of silica gel (4×30 cm), and eluted with ethanol/methylene chloride (2:98 v/v). Pure fractions containing desired product, as evidenced by t.l.c. (silica gel, EM60F254, 2% NH4OH in ethyl acetate, Rf=0.78) were evaporated to dryness to yield 4-((alpha-R)-alpha-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-trifluoromethylsulfonyloxybenzyl)-N,N-diethylbenzamide (0.72 g) as a yellow/amber oil.

reactant | 4-((alpha-R)-alpha-((2S,5R)-4-Allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N,N-diethylbenzamide hydrochloride | 2.0 mmol, 0.97 g | Cl.C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O)C1=CC=C(C(=O)N(CC)CC)C=C1)C
reactant | triethylamine | 6.6 mmol, 0.919 mL, 0.667 g | C(C)N(CC)CC | C6H15N
reactant | N-phenyl bis(trifluoromethanesulfonimide) | 2.2 mmol, 0.785 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-((alpha-R)-alpha-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-trifluoromethylsulfonyloxybenzyl)-N,N-diethylbenzamide | 0.72 g | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)OS(=O)(=O)C(F)(F)F)C1=CC=C(C(=O)N(CC)CC)C=C1)C | C28H36F3N3O4S
